### PR TITLE
[Merged by Bors] - feat: port ModelTheory.Basic

### PR DESCRIPTION
**Pull request by qawbecrdtey**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by int-y1** [comment]
Remaining errors:

* [ ] `Cardinal.lift` stuff
* [ ] `@[simps]` stuff
* [ ] `inducedStructureEquiv` failed to synthesize instance `Structure L N`

File: Mathlib/ModelTheory/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,1100 @@
...
+
+instance [L.IsAlgebraic] {n : ℕ} : IsEmpty (L.Relations n) :=
+  IsAlgebraic.empty_relations n
+
+instance isRelational_of_empty_functions {symb : ℕ → Type _} :
+    IsRelational ⟨fun _ => Empty, symb⟩ :=
+  -- Porting note: Previous code was
+  -- ⟨fun _ => Empty.isEmpty⟩
+  --
+  -- No instance Empty.isEmpty.
```
Comment (semorrison) [inline Mathlib/ModelTheory/Basic.lean:200]: It will be easier on reviewers if you quote the errors exactly. This was `unknown constant`, not `No instance` (which would have been weird).

Comment (semorrison) [reply Mathlib/ModelTheory/Basic.lean:200]: In mathlib3 we were using an automatically named instance, which changed names. You can diagnose these sorts of issues by opening the mathlib3 file, and using jump to definition on the original identifier.

Comment (semorrison) [reply Mathlib/ModelTheory/Basic.lean:200]: I've fixed this, and the following three similar porting notes.

File: Mathlib/ModelTheory/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,1100 @@
...
+  simp only [Language.Symbols, isEmpty_sum, isEmpty_sigma]
+  exact ⟨fun _ => inferInstance, fun _ => inferInstance⟩
+#align first_order.language.is_empty_empty FirstOrder.Language.isEmpty_empty
+
+instance Countable.countable_functions [h : Countable L.Symbols] : Countable (Σl, L.Functions l) :=
+  @Function.Injective.countable _ _ h _ Sum.inl_injective
+#align
+  first_order.language.countable.countable_functions
+  FirstOrder.Language.Countable.countable_functions
+--set_option pp.universes true
```
Comment (semorrison) [inline Mathlib/ModelTheory/Basic.lean:285]:
```suggestion

```

File: Mathlib/ModelTheory/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,1100 @@
...
+@[coe]
+def constantMap (c : L.Constants) : M := funMap c default
+
+instance : CoeTC L.Constants M :=
+  ⟨constantMap⟩
+
+theorem funMap_eq_coe_constants {c : L.Constants} {x : Fin 0 → M} : funMap c x = c := by
+  congr
+  funext Fin.elim0
+  exact _root_.Fin.elim0 Fin.elim0
```
Comment (semorrison) [inline Mathlib/ModelTheory/Basic.lean:402]:
```suggestion
  congr
  funext i
  exact Fin.elim0 i
```
rather confusing to name the variable Fin.elim0!

Comment (semorrison) [inline Mathlib/ModelTheory/Basic.lean:402]:
```suggestion
theorem funMap_eq_coe_constants {c : L.Constants} {x : Fin 0 → M} : funMap c x = c := 
congr rfl (funext finZeroElim)
```
Is probably the best solution here.

File: Mathlib/ModelTheory/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,1100 @@
...
+
+variable (L) (M)
+
+/-- The identity map from a structure to itself. -/
+@[refl]
+def id : M →[L] M where
+  toFun m := m
+  -- Porting note: Added two lines below.
+  map_fun' _ _ := rfl
+  map_rel' _ _ h := h
```
Comment (semorrison) [inline Mathlib/ModelTheory/Basic.lean:588]:
```suggestion
```
Why? It seems to work without them.

File: Mathlib/ModelTheory/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,1100 @@
...
+
+/-- A homomorphism between first-order structures is a function that commutes with the
+  interpretations of functions and maps tuples in one structure where a given relation is true to
+  tuples in the second structure where that relation is still true. -/
+structure Hom where
+  /-- The underlying function of a homomorphism of structures -/
+  toFun : M → N
+  /-- The homomorphism commutes with the interpretations of the function symbols -/
+  map_fun' : ∀ {n} (f : L.Functions n) (x), toFun (funMap f x) = funMap f (toFun ∘ x) := by
+    intros; trivial
```
Comment (semorrison) [inline Mathlib/ModelTheory/Basic.lean:354]: We should make all the autoparams here `aesop`, I think.

See https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Aesop.20and.20cases

Comment (qawbecrdtey) [reply Mathlib/ModelTheory/Basic.lean:354]: Please check the commit right below. Changing the corresponding line to `aesop` fails at some point. Also I'm not familiar with `aesop`.

File: Mathlib/ModelTheory/Basic.lean (hunk 1 above)
Comment (semorrison) [reply Mathlib/ModelTheory/Basic.lean:200]: Sorry, it seems I didn't actually commit this...

**Comment by semorrison** [comment]
bors merge
